US07112697B1
(2,6-dimethyl-phenyl)-phenyl sulfide (entry 7, Table 2):
The general procedure was used to convert iodobenzene and 2,6-dimethylthiophenol to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (409 mg, 95% yield). 1H NMR (300 MHz, CDCl3) δ 7.1–6.98 (m, 5H; Hc, Hc, Hd, Hd′, He), 6.93–6.86 (m, 1H; Hb), 6.77 (d, J=7.16, 2H; Ha, Ha′) 2.34 (s, 6H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 143.86 (C2, C6), 137.98 (C9), 130.43 (C1), 129.22 (C4), 128.86 (C10, C14), 128.40 (C1, C13), 125.59 (C3, C5), 124.57 (C12), 21.82 (C7, C8). Anal. Calcd. for C14H14S: C, 78.45; H, 6.58; S, 14.96; Found C, 78.58; H, 6.71; S, 14.98.

reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 2,6-dimethylthiophenol | CC1=C(C(=CC=C1)C)S | C8H10S
product | (2,6-dimethyl-phenyl)-phenyl sulfide | CC1=C(C(=CC=C1)C)SC1=CC=CC=C1 | C14H14S
